US07566735B2
1-[3-(4-bromophenyl)propanoyl]pyrrolidine
The title compound was prepared from 3-(4-bromophenyl)propanoic acid and pyrrolidine using a similar procedure to that described for Description 8, but without chromatographic purification.

reactant | 3-(4-bromophenyl)propanoic acid | BrC1=CC=C(C=C1)CCC(=O)O | C9H9BrO2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 1-[3-(4-bromophenyl)propanoyl]pyrrolidine | BrC1=CC=C(C=C1)CCC(=O)N1CCCC1 | C13H16BrNO
